US09284331B2
Step 3: methyl 2-(5-iodo-1,2,3,4-tetrahydroisoquinolin-1-yl)propanoate.
A mixture of methyl 2-(5-iodo-3,4-dihydroisoquinolin-1-yl)propanoate (1.15 g, 3.35 mmol) in glacial AcOH (12 mL) was treated with NaBH3CN (421 mg, 6.70 mmol) at RT under N2. The mixture was stirred at RT for 16 h, and then poured onto H2O. The mixture was rendered basic with a 50% aqueous solution of NaOH and extracted with AcOEt. The combined org. phases were then dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (1.17 g) that was used as it is. UPLC-MS: MS 346.1 (M+H+); UPLC rt 0.65 min.

reactant | methyl 2-(5-iodo-3,4-dihydroisoquinolin-1-yl)propanoate | 3.35 mmol, 1.15 g | IC1=C2CCN=C(C2=CC=C1)C(C(=O)OC)C | C13H14INO2
reactant | NaBH3CN | 6.70 mmol, 421 mg | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | AcOH | 12 mL | CC(=O)O | C2H4O2
product | methyl 2-(5-iodo-1,2,3,4-tetrahydroisoquinolin-1-yl)propanoate | 1.17 g | IC1=C2CCNC(C2=CC=C1)C(C(=O)OC)C | C13H16INO2
